US04405631
4-(1-Oxoethyl)-4-(2-fluorophenylmethoxy)piperidine oxalate
The compound 1-acetyl-4-ethynyl-4-(2-fluorophenylmethoxy)piperidine (262 g; 950 mmole) was dissolved in 1600 ml of methanol:water (1:1) in a 3-necked round bottomed flask equipped with mechanical stirrer, thermometer, reflux condenser and nitrogen line. A solution of 180 ml of concentrated sulfuric acid dissolved in 200 ml of water was added to the stirred solution. The mixture was heated to reflux and stirred at that temperature for 3 hrs. Hydrolysis of the acetyl function was monitored by infra-red spectra of aliquots of the reaction. The reaction mixture was cooled and 73 g of mercuric sulfate was added and the temperature was raised to reflux again. Hydrolysis to the ketone was monitored by infrared spectra as well. After 3 hrs, at reflux, the reaction was determined to be complete. The mixture was cooled and filtered. The filtrate was made basic (pH=8.5) with 50% sodium hydroxide and was extracted several times with chloroform. The organic layer was dried over anhydrous magnesium sulfate and filtered. The solvent was removed under vacuum and the residue was chromatographed on 500 g of alumina packed in ether. The compound was eluted with ether:ethanol (1:1) with the collection of 125 ml fractions. Those containing the material (6-24) were combined and the oxalate salt was precipitated, which was filtered, washed with anhydrous ether and dried (42 g, 123 mmole, 13% yield). A 7 g sample was recrystallized from ethanol resulting in 2 g of 4-(1-oxoethyl)-4-(2-fluorophenylmethoxy)piperidine oxalate in the first crop. This material appeared pure by thin layer chromatography on silica gel in chloroform:methanol (9:1), Rf =0.30 and hexane:THF (1:1), Rf =0.10. MS (ci MH+ =252), NMR-DMSO-d6 and IR-KBr are consistent with the structure, m.p.=154°-155° C.

reactant | 1-acetyl-4-ethynyl-4-(2-fluorophenylmethoxy)piperidine | 950 mmole, 262 g | C(C)(=O)N1CCC(CC1)(OCC1=C(C=CC=C1)F)C#C | C16H18FNO2
reactant | sulfuric acid | 180 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol water | 1600 ml | CO.O
solvent | water | 200 ml | O | H2O
product | 4-(1-Oxoethyl)-4-(2-fluorophenylmethoxy)piperidine oxalate | 13% yield | C(C(=O)O)(=O)O.O=C(C)C1(CCNCC1)OCC1=C(C=CC=C1)F | InChI=1S/C14H18FNO2.C2H2O4/c1-11(17)14(6-8-16-9-7-14)18-10-12-4-2-3-5-13(12)15;3-1(4)2(5)6/h2-5,16H,6-10H2,1H3;(H,3,4)(H,5,6)
